US05266570
1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(4-morpholinyl)piperidine dihydrochloride
To an ice cooled solution of 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(4-morpholinyl)piperidine (2.29 g, 5.89 mmol) in tetrahydrofuran (35 mL) was added 1M borane-tetrahydrofuran in tetrahydrofuran (17,7 mL, 17.7 mmol). The reaction was refluxed for 5 h and then was cooled with an ice bath. This mixture was added dropwise a solution of methanolic hydrochloride (25 mL). The ice bath was removed and the solution was refluxed for 0.5 h. The resulting precipitate was filtered with hexane wash (50 mL). The solid was recrystallized from acetonitrile to give the title compound as a white solid (1.62 g, 68%), mp 257.0°-259.0° C.; MS(CI): 375 (M+H); NMR (250 MHz,DMSO-d6): 2.27(m, 6H), 2.75(s, 2H), 3.11(br s, 2H), 3.40(br s, 2H), 3.66(m, 2H), 3.94(m, 4H), 4.38(m, 3H), 4.47(s, 1 H), 7.00(m, 4H), 7.34(m, 4H), 10.46(br s, 1H), 11.91(br s, 1H).

reactant | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(4-morpholinyl)piperidine | 5.89 mmol, 2.29 g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)N3CCC(CC3)N3CCOCC3 | C25H28N2O2
reactant | borane tetrahydrofuran | 1M | B.O1CCCC1
reactant | hydrochloride | 25 mL | Cl | ClH
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17.7 mmol, 17,7 mL | O1CCCC1 | C4H8O
product | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(4-morpholinyl)piperidine dihydrochloride | 1.62 g, 68% | Cl.Cl.C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)N3CCOCC3 | InChI=1S/C25H30N2O.2ClH/c1-3-7-23-20(5-1)22-17-25(23,24-8-4-2-6-21(22)24)18-26-11-9-19(10-12-26)27-13-15-28-16-14-27;;/h1-8,19,22H,9-18H2;2*1H
